US04895840
N-[2-[4-(Methylsulfonyl)phenoxy]ethyl]-2-propanamine hydrochloride [1:1]
To a solution 20.5 g (0.095 mole) of 2-[4-(methylsulfonyl)phenoxy]ethanol (from preparation 36) and 12.25 g (0.12 mole) of triethylamine in a mixture of 200 ml of benene and 500 ml of methylene chloride was slowly added a solution of 14.31 g (0.125 mole) of mesyl chloride in methylene chloride, and the solution was stirred at room temperature for 2 hours. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate, the solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride phase was extracted with dilute sulfuric acid. The acidic extract was made basic with 50% sodium hydroxide, and the basic solution was extracted with methylene chloride. The methylene chloride solution was dried over magnesum sulfate and the solvent was removed in vacuo to give 17.45 g (62.7%) of the free base of the product as a solid. Part of this was converted to the hydrochloride salt, and the salt was recrystallized from mthanol/diethyl ether to give the product as a white, crystalline solid, m.p. 182°-184° C.

reactant | 2-[4-(methylsulfonyl)phenoxy]ethanol | 0.095 mole, 20.5 g | CS(=O)(=O)C1=CC=C(OCCO)C=C1 | C9H12O4S
reactant | triethylamine | 0.12 mole, 12.25 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.125 mole, 14.31 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(Methylsulfonyl)phenoxy]ethyl]-2-propanamine hydrochloride | 17.45 g, 62.7% | Cl.CS(=O)(=O)C1=CC=C(OCCNC(C)C)C=C1 | InChI=1S/C12H19NO3S.ClH/c1-10(2)13-8-9-16-11-4-6-12(7-5-11)17(3,14)15;/h4-7,10,13H,8-9H2,1-3H3;1H
